US09034891B2
Synthesis of (3,5-di-tert-butyl-4-hydroxy-phenyl)-(2,8-dimethyl-1-thia-3,8-diaza-spiro[4.5]dec-3-yl)-methanone (AF723)
A solution of dicyclohexylcarbodiimide (985 mg, 4.77 mmol) in dry and distilled dichloromethane (10 ml) was added to a stirred solution of 3,5-di-tert-butyl-4-hydroxybenzoic acid (1.14 g, 4.55 mmol) in dichloromethane (15 ml) at room temperature under an argon atmosphere. Dicyclohexylurea began to precipitate as a white solid. 1-Hydroxybenzotriazole (645 mg, 4.77 mmol) was added and the resulting solution was stirred at room temperature for 5 min. 2,8-dimethyl-1-thia-3,8-diaza-spiro[4.5]decane (846 mg, 4.55 mmol) in dichloromethane (5 ml) was then added and the resulting mixture was kept at room temperature overnight. The next day mixture was heated at 30° C. (temperature of water bath) for 5 hrs and then kept at room temperature for another 4 days. The resulting suspension was filtered and the solvent evaporated under reduced pressure. The residue was purified by flash chromatography (silica, CH2Cl2/EtOH/NH4OH 140/10/1) to give two fractions: AF723 (224 mg, 99.16% chemical purity) and a mixture of AF723 with a by-product (943 mg). The mixture of AF723 with by-product was purified by flash chromatography in a COMBI-flash system using linear gradient (silica, CH2Cl2/EtOH/NH4OH 220/10/1 to 140/10/1). After evaporation and drying under vacuum, AF723 (516 mg, 100% chemical purity) was obtained as a white solid. 1H NMR (CDCl3, 500 MHz) δ 7.27 (s, 2H, arom CH), 5.55 (m, 1H, CH—S), 5.44 (s, 1H, OH), 4.10 (m, 1H, CHH—N—CO), 3.40 (m, 1H, CHH—N—CO), 2.60 (m, 2H, CH2—NCH3), 2.28 (m, 1H, CHH—NCH3), 2.25 (s, 3H, NCH3), 2.11 (m, 1H, CHH—NCH3), 1.95-1.66 (m, 4H, two CH2—CS), 1.60 (d, J=6.15 Hz, 3H, CH3—CH), 1.44 (s, 18H, t-butyl) ppm; 13C NMR (CDCl3, 500 MHz) δ 170.78 (C═O), 155.52 (C), 135.93 (two C), 127.39 (C), 124.30 (two CH), 59.56 (C), 58.00 (CH), 56.40 (CH2), 54.23 (CH2), 52.82 (CH2), 45.88 (CH3), 37.68 (CH2), 36.50 (CH2), 34.28 (C), 30.21 (CH3), 23.99 (CH3) ppm; FTIR (HATR) 2943.89, 1619.92, 1388.67 cm−1; GC-MS (EI) 7.31 min m/z: 419 (M+1).

reactant | dicyclohexylcarbodiimide | 4.77 mmol, 985 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 3,5-di-tert-butyl-4-hydroxybenzoic acid | 4.55 mmol, 1.14 g | C(C)(C)(C)C=1C=C(C(=O)O)C=C(C1O)C(C)(C)C | C15H22O3
reactant | Dicyclohexylurea | C(=O)(NC1CCCCC1)NC1CCCCC1 | C13H24N2O
reactant | 1-Hydroxybenzotriazole | 4.77 mmol, 645 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 2,8-dimethyl-1-thia-3,8-diaza-spiro[4.5]decane | 4.55 mmol, 846 mg | CC1SC2(CN1)CCN(CC2)C | C9H18N2S
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | (3,5-di-tert-butyl-4-hydroxy-phenyl)-(2,8-dimethyl-1-thia-3,8-diaza-spiro[4.5]dec-3-yl)-methanone | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C(=O)N1C(SC2(C1)CCN(CC2)C)C | C24H38N2O2S
